US08754073B2
49.2 (S)-5-amino-1-propylpiperidin-2-one
0.569 g (S)-5-dibenzylamino-1-propylpiperidin-2-one are placed in 25 ml of methanol and hydrogenated with 0.150 g Pd/C 10% at a pressure of 3 bar and a temperature of 60° C. After 19 hours the catalyst is suction filtered and the filtrate is evaporated to dryness. 0.217 g of the product are obtained as an oil.

reactant | (S)-5-dibenzylamino-1-propylpiperidin-2-one | 0.569 g | C(C1=CC=CC=C1)N([C@H]1CCC(N(C1)CCC)=O)CC1=CC=CC=C1 | C22H28N2O
solvent | methanol | 25 ml | CO | CH4O
catalyst | Pd/C | 0.150 g | [Pd] | Pd
product | (S)-5-amino-1-propylpiperidin-2-one | 0.217 g | N[C@H]1CCC(N(C1)CCC)=O | C8H16N2O
